US06673799B1
2-Methoxycarbonylisonicotinic acid
A 1.7 ml portion of concentrated sulfuric acid was added to 50 ml of methanol solution containing 5.0 g of pyridine-2,4-dicarboxylic acid, and the mixture was heated under reflux for 1 hour and 10 minutes. After cooling, this was poured into ice water and stirred at 5° C. for 3 hours, and the thus precipitated white solid was collected by filtration. A 5.7 g portion of this product was dissolved in 100 ml of methanol with heating, and the solution was cooled and then stirred at room temperature. By collecting the thus precipitated white solid by filtration, 2.5 g of the title compound was obtained.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | pyridine-2,4-dicarboxylic acid | 5.0 g | N1=C(C=C(C=C1)C(=O)O)C(=O)O | C7H5NO4
reactant | methanol | 50 ml | CO | CH4O
product | 2-Methoxycarbonylisonicotinic acid | 2.5 g | COC(=O)C=1C=C(C(=O)O)C=CN1 | C8H7NO4
